US04757080
(b) 1,4-Dihydro-2,6-dimethyl-3-(2-methoxyethoxy)carbonyl-4-(3-nitrophenyl)-5-(2-aminoethoxy)carbonyl-pyridine
Prepared by a method analogous to that of Example 1(b) from 10.0 g (18.2 mmol) of 1,4-dihydro-2,6-dimethyl-3-(2-methoxyethoxy)carbonyl-4-(3-nitrophenyl)-5-(2-phthalimidoethoxy)carbonyl-pyridine and 2.65 ml (54.6 mmol) of hydrazine hydrate.

reactant | 1,4-dihydro-2,6-dimethyl-3-(2-methoxyethoxy)carbonyl-4-(3-nitrophenyl)-5-(2-phthalimidoethoxy)carbonyl-pyridine | 18.2 mmol, 10.0 g | CC=1NC(=C(C(C1C(=O)OCCOC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C28H27N3O9
reactant | hydrazine hydrate | 54.6 mmol, 2.65 ml | O.NN
product | 1,4-Dihydro-2,6-dimethyl-3-(2-methoxyethoxy)carbonyl-4-(3-nitrophenyl)-5-(2-aminoethoxy)carbonyl-pyridine | CC=1NC(=C(C(C1C(=O)OCCOC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCN)C | C20H25N3O7
